US06900201B2
1-[6-(1-METHYL-1H-INDAZOL-5-YLOXY)-PYRIDIN-3-YL]-1,7,9-TRIAZA-SPIRO[4.5]DECANE-6,8,10-TRIONE
2-[6-(1-Methyl-1H-indazol-5-yloxy)-pyridin-3-ylamino]-malonic acid diethyl ester can be prepared by combining 5-(5-Amino-pyridin-2-yloxy)-1-methyl-1H-indazole (11.4 mmol), bromodiethylmalonate (11.4 mmol), and N,N-dimethylaniline (11.4 mmol) in a flame dried flask and heated to 70° C. for 3.5 hours. The mixture is cooled to room temperature, adsorbed to silica gel and chromatographed (gradient elution, ethyl acetate-hexanes) to afford the title compound.

reactant | 2-[6-(1-Methyl-1H-indazol-5-yloxy)-pyridin-3-ylamino]-malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)NC=1C=NC(=CC1)OC=1C=C2C=NN(C2=CC1)C)=O | C20H22N4O5
reactant | 5-(5-Amino-pyridin-2-yloxy)-1-methyl-1H-indazole | 11.4 mmol | NC=1C=CC(=NC1)OC=1C=C2C=NN(C2=CC1)C | C13H12N4O
reactant | bromodiethylmalonate | 11.4 mmol | BrCCC(C(=O)[O-])(C(=O)[O-])CC
reactant | N,N-dimethylaniline | 11.4 mmol | CN(C1=CC=CC=C1)C | C8H11N
product | 1-[6-(1-METHYL-1H-INDAZOL-5-YLOXY)-PYRIDIN-3-YL]-1,7,9-TRIAZA-SPIRO[4.5]DECANE-6,8,10-TRIONE | CN1N=CC2=CC(=CC=C12)OC1=CC=C(C=N1)N1CCCC12C(NC(NC2=O)=O)=O | C20H18N6O4
